US06949542B2
8-Chloro-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (4-chloro-2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester (Example M67) (0.40 g, 0.83 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (239 mg, 79%).

reactant | (4-chloro-2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | 0.83 mmol, 0.40 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O)=O | C26H26ClN3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-4-[3-(2-methyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)C)=O)C1 | C21H16ClN3O
